*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.5
* < ILD_dielectric_const = 3.6
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_0 1 2 3 4 REF
C_C1 1 REF 1.1148975405961pf
C_C2 1 2 13.768395905884pf
C_C3 1 4 0.3563345103471pf
C_C4 2 REF 1.2776439132655pf
C_C5 2 3 0.0830471932483pf
C_C6 3 REF 0.5169855489795pf
C_C7 3 4 7.7137223309912pf
C_C8 4 REF 0.1547818190429pf
L_L1 3 5 1.3093568585453nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_1 1 2 3 4 REF
C_C1 1 REF 0.8317623536954pf
C_C2 1 2 14.024411575247pf
C_C3 1 4 0.3257203890707pf
C_C4 2 REF 0.9989608993455pf
C_C5 2 3 0.0908936232497pf
C_C6 3 REF 0.4777337881375pf
C_C7 3 4 5.7270849553789pf
C_C8 4 REF 0.1941960507942pf
R_R1 1 2 949.06405482097
L_L1 3 5 1.3109760567155nh
R_RL1 5 4 2.7627953386e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_2 1 2 3 4 REF
C_C1 1 REF 0.6385233481297pf
C_C2 1 2 14.249861245851pf
C_C3 1 4 0.3008653327275pf
C_C4 2 REF 0.8097323679266pf
C_C5 2 3 0.0966377638236pf
C_C6 3 REF 0.4461085561903pf
C_C7 3 4 4.3400982338393pf
C_C8 4 REF 0.2261875090754pf
R_R1 1 2 913.16760179636
L_L1 3 5 1.3123252084967nh
R_RL1 5 4 1.6154930108e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_3 1 2 3 4 REF
C_C1 1 REF 0.4807516825244pf
C_C2 1 2 14.516659386545pf
C_C3 1 4 0.2763401357163pf
C_C4 2 REF 0.6568375997916pf
C_C5 2 3 0.1017268579024pf
C_C6 3 REF 0.4148756548303pf
C_C7 3 4 3.1468075137685pf
C_C8 4 REF 0.2580449040829pf
R_R1 1 2 893.36167282067
L_L1 3 5 1.3136869400547nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_4 1 2 3 4 REF
C_C1 1 REF 0.3654959723204pf
C_C2 1 2 14.837678091905pf
C_C3 1 4 0.2543666327651pf
C_C4 2 REF 0.5475661404406pf
C_C5 2 3 0.1057469455081pf
C_C6 3 REF 0.3865172161353pf
C_C7 3 4 2.1905992847227pf
C_C8 4 REF 0.2872210275999pf
R_R1 1 2 896.01805619256
L_L1 3 5 1.3150592761725nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_5 1 2 3 4 REF
C_C1 1 REF 0.2998432843954pf
C_C2 1 2 15.181337084287pf
C_C3 1 4 0.2388128694512pf
C_C4 2 REF 0.4883404998828pf
C_C5 2 3 0.1081512337638pf
C_C6 3 REF 0.3657161164645pf
C_C7 3 4 1.5579163304483pf
C_C8 4 REF 0.3088049895168pf
R_R1 1 2 924.78720396642
L_L1 3 5 1.3161710812808nh
R_RL1 5 4 -1.440927517e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_6 1 2 3 4 REF
C_C1 1 REF 0.2631449092113pf
C_C2 1 2 15.560812335236pf
C_C3 1 4 0.2282925815606pf
C_C4 2 REF 0.4586466941155pf
C_C5 2 3 0.1094490468953pf
C_C6 3 REF 0.3505861884901pf
C_C7 3 4 1.124529176158pf
C_C8 4 REF 0.3246154152263pf
R_R1 1 2 981.36832122667
L_L1 3 5 1.317090588742nh
R_RL1 5 4 -2.318252618e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_7 1 2 3 4 REF
C_C1 1 REF 0.2414831655168pf
C_C2 1 2 16.064388204251pf
C_C3 1 4 0.2211183455423pf
C_C4 2 REF 0.446037856356pf
C_C5 2 3 0.1100411478818pf
C_C6 3 REF 0.3383375576152pf
C_C7 3 4 0.7786388859018pf
C_C8 4 REF 0.3374939740254pf
L_L1 3 5 1.3179660946848nh
R_RL1 5 4 -3.063627946e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_8 1 2 3 4 REF
C_C1 1 REF 0.2311671082026pf
C_C2 1 2 16.723889300428pf
C_C3 1 4 0.2180407684126pf
C_C4 2 REF 0.4471657725776pf
C_C5 2 3 0.1100686600082pf
C_C6 3 REF 0.3293788536417pf
C_C7 3 4 0.5121618891569pf
C_C8 4 REF 0.3469624156855pf
L_L1 3 5 1.3187659015848nh
R_RL1 5 4 -3.632571861e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_9 1 2 3 4 REF
C_C1 1 REF 0.2284866634977pf
C_C2 1 2 17.601846272021pf
C_C3 1 3 0.0148104958108pf
C_C4 1 4 0.2199334310844pf
C_C5 2 REF 0.4590705867898pf
C_C6 2 3 0.1098248086543pf
C_C7 3 REF 0.3238701319922pf
C_C8 3 4 0.3155629812085pf
C_C9 4 REF 0.352809853215pf
L_L1 3 5 1.3194731097884nh
R_RL1 5 4 -3.955878333e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_10 1 2 3 4 REF
C_C1 1 REF 0.229150824317pf
C_C2 1 2 18.759546853731pf
C_C3 1 3 0.0174202615999pf
C_C4 1 4 0.2272316918893pf
C_C5 2 REF 0.4781319507664pf
C_C6 2 3 0.1098174943416pf
C_C7 3 REF 0.3213753324406pf
C_C8 3 4 0.1729943586914pf
C_C9 4 REF 0.3554639815795pf
L_L1 3 5 1.3201033574748nh
R_RL1 5 4 -3.995084558e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_11 1 2 3 4 REF
C_C1 1 REF 0.229598949098pf
C_C2 1 2 20.318240843598pf
C_C3 1 3 0.0165480226106pf
C_C4 1 4 0.2409789619432pf
C_C5 2 REF 0.5022681605584pf
C_C6 2 3 0.1107739216997pf
C_C7 3 REF 0.3214145985699pf
C_C8 3 4 0.0725269693472pf
C_C9 4 REF 0.3554146123418pf
L_L1 1 5 77.095289674741nh
R_RL1 5 2 15.676270577559
L_L2 3 6 1.3206390833585nh
R_RL2 6 4 -3.697981447e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_12 1 2 3 4 REF
C_C1 1 REF 0.2266896945547pf
C_C2 1 2 22.421014759124pf
C_C3 1 3 0.0120108652192pf
C_C4 1 4 0.2622772883393pf
C_C5 2 REF 0.5300872941662pf
C_C6 2 3 0.1136018658619pf
C_C7 3 REF 0.3232541527087pf
C_C8 4 REF 0.3534348007191pf
L_L1 1 5 47.331849915471nh
R_RL1 5 2 10.261501879613
L_L2 3 6 1.3210987353286nh
R_RL2 6 4 -3.056196738e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_13 1 2 3 4 REF
C_C1 1 REF 0.2171790520632pf
C_C2 1 2 25.357685155593pf
C_C3 1 4 0.2939091352891pf
C_C4 2 REF 0.5620562819081pf
C_C5 2 3 0.1197184777008pf
C_C6 3 REF 0.3262743410551pf
C_C7 4 REF 0.3501852612852pf
R_R1 1 2 -809.7877085452
L_L1 1 5 28.722705235221nh
R_RL1 5 2 6.3774338687417
L_L2 3 6 1.3210374625404nh
R_RL2 6 4 -1.990031524e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_14 1 2 3 4 REF
C_C1 1 REF 0.1975650976117pf
C_C2 1 2 29.55070857956pf
C_C3 1 4 0.3400868519303pf
C_C4 2 REF 0.6001561921334pf
C_C5 2 3 0.1310404172451pf
C_C6 3 REF 0.3298379596734pf
C_C7 4 REF 0.3463548065479pf
R_R1 1 2 -501.6402840664
L_L1 1 5 17.038731132272nh
R_RL1 5 2 4.0198496722023
L_L2 3 6 1.3207625187184nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_15 1 2 3 4 REF
C_C1 1 REF 0.1615414655898pf
C_C2 1 2 35.91769402326pf
C_C3 1 4 0.4105281164158pf
C_C4 2 REF 0.6501467248187pf
C_C5 2 3 0.1513048433082pf
C_C6 3 REF 0.3334448737335pf
C_C7 4 REF 0.3425010529583pf
R_R1 1 2 -340.0667613383
L_L1 1 5 9.9356473219932nh
R_RL1 5 2 3.1995058074062
L_L2 3 6 1.3202258714549nh
R_RL2 6 4 3.067981379e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_16 1 2 3 4 REF
C_C1 1 REF 0.0920031417904pf
C_C2 1 2 47.095681172852pf
C_C3 1 4 0.533795275387pf
C_C4 2 REF 0.7298926858424pf
C_C5 2 3 0.1905280736798pf
C_C6 3 REF 0.3368209004921pf
C_C7 4 REF 0.3389903001104pf
R_R1 1 2 -238.6080719574
L_L1 1 5 5.7694923098666nh
R_RL1 5 2 1.1239073514871
L_L2 3 6 1.3192544563018nh
R_RL2 6 4 1.1743967661e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_17 1 2 3 4 REF
C_C1 1 2 69.817273470747pf
C_C2 1 4 0.7829229355483pf
C_C3 2 REF 0.8841161182138pf
C_C4 2 3 0.2743585192756pf
C_C5 3 REF 0.3393425866617pf
C_C6 4 REF 0.3367524963324pf
R_R1 1 2 -174.855520826
L_L1 1 5 2.4712526651256nh
R_RL1 5 2 0.2378378915969
L_L2 3 6 1.3172417869674nh
R_RL2 6 4 1.8311643657e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_18 1 2 3 4 REF
C_C1 1 2 130.56591504478pf
C_C2 1 4 1.4454140350369pf
C_C3 2 REF 1.2892993614823pf
C_C4 2 3 0.5020871981958pf
C_C5 3 REF 0.3399555516067pf
C_C6 4 REF 0.3380757902955pf
R_R1 1 2 -169.4506812348
L_L1 1 5 0.8878007494592nh
R_RL1 5 2 0.0344647251102
L_L2 1 6 41.821726974969nh
R_RL2 6 3 0.022164466985
L_L3 1 7 41.107704600707nh
R_RL3 7 4 0.0234058862257
L_L4 2 8 41.921784502041nh
R_RL4 8 3 0.0015609823121
L_L5 2 9 41.211496439372nh
R_RL5 9 4 0.0016897375436
L_L6 3 10 1.3119282084862nh
R_RL6 10 4 3.8439768099e-5
Kn_K1 L_L1 L_L2 0.0646391958175
Kn_K2 L_L1 L_L3 0.0648890828644
Kn_K3 L_L1 L_L4 -0.080963078448
Kn_K4 L_L1 L_L5 -0.081966488549
Kn_K5 L_L2 L_L3 0.9842166673856
Kn_K6 L_L2 L_L4 0.98939927891
Kn_K7 L_L2 L_L5 0.9734891621309
Kn_K8 L_L2 L_L6 -0.136754880952
Kn_K9 L_L3 L_L4 0.9735984282812
Kn_K10 L_L3 L_L5 0.9892159300493
Kn_K11 L_L3 L_L6 0.0407085981256
Kn_K12 L_L4 L_L5 0.9842549027777
Kn_K13 L_L4 L_L6 -0.136339811481
Kn_K14 L_L5 L_L6 0.0409112345229
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_19 1 2 3 4 REF
C_C1 1 2 458.89195997843pf
C_C2 1 4 5.0136762368376pf
C_C3 2 REF 3.4730856289517pf
C_C4 2 3 1.7302418998289pf
C_C5 3 REF 0.3326186085378pf
C_C6 4 REF 0.359866716726pf
R_R1 1 2 20.459400438833
L_L1 1 5 21.93769961845nh
R_RL1 5 REF -0.327186873715
L_L2 1 6 0.1716707737788nh
R_RL2 6 2 -0.021539486771
L_L3 1 7 9.6604355336735nh
R_RL3 7 3 -0.011235511396
L_L4 1 8 9.0105255514805nh
R_RL4 8 4 -0.010729909746
L_L5 2 9 21.819188454792nh
R_RL5 9 REF -0.342525274212
L_L6 2 10 9.6970732257043nh
R_RL6 10 3 -1.650614858e-3
L_L7 2 11 9.0519162291825nh
R_RL7 11 4 -1.60673692e-3
L_L8 3 12 31.400781347262nh
R_RL8 12 REF -0.349462585074
L_L9 3 13 1.2834336213417nh
R_RL9 13 4 5.9382206937e-5
L_L10 4 14 30.74707689474nh
R_RL10 14 REF -0.334687416416
Kn_K1 L_L1 L_L2 0.0747647103621
Kn_K2 L_L1 L_L5 0.9960803676344
Kn_K3 L_L1 L_L8 0.83208449569
Kn_K4 L_L1 L_L10 0.8408102741814
Kn_K5 L_L2 L_L3 0.0524280431223
Kn_K6 L_L2 L_L4 0.0523750958665
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.080725065263
Kn_K9 L_L2 L_L7 -0.085458731137
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9318251302293
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9911333420289
Kn_K15 L_L3 L_L7 0.9224721907066
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.274532642797
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.923094428865
Kn_K21 L_L4 L_L7 0.9904983056908
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0931474696343
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8313775089925
Kn_K26 L_L5 L_L10 0.8400038614269
Kn_K27 L_L6 L_L7 0.9320985129988
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.273339886934
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0936314987365
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1525715815229
Kn_K35 L_L8 L_L10 0.9794028890025
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_20 1 2 3 4 REF
C_C1 1 REF 11.283656459158pf
C_C2 1 3 6.0984596550124pf
C_C3 2 4 17.73258325488pf
C_C4 3 REF 0.3823984014006pf
C_C5 4 REF 0.209726766018pf
R_R1 1 REF -383.5793818417
R_R2 1 2 2.7223873271406
R_R3 1 3 -444.3310395358
R_R4 1 4 198.6655893232
R_R5 2 REF 378.02643650076
R_R6 2 3 448.35959759843
R_R7 2 4 -199.4684850148
L_L1 1 5 4.6409537543684nh
R_RL1 5 REF -0.015420100244
L_L2 1 6 0.2322754629989nh
R_RL2 6 2 -0.382974183702
L_L3 1 7 2.7886101929445nh
R_RL3 7 3 -0.168116020476
L_L4 1 8 2.2413108016469nh
R_RL4 8 4 -0.23619985243
L_L5 2 9 4.8334325874533nh
R_RL5 9 REF -0.443018894399
L_L6 2 10 2.7300726865845nh
R_RL6 10 3 -0.043609364615
L_L7 2 11 2.1447506144483nh
R_RL7 11 4 -0.017599496502
L_L8 3 12 7.4234444505171nh
R_RL8 12 REF -0.216081344004
L_L9 3 13 1.175225259235nh
R_RL9 13 4 -5.697372975e-3
L_L10 4 14 6.885164372114nh
R_RL10 14 REF -0.286106913503
Kn_K1 L_L1 L_L2 0.0191650966214
Kn_K2 L_L1 L_L5 0.9756852184578
Kn_K3 L_L1 L_L8 0.790158956347
Kn_K4 L_L1 L_L10 0.8212627469254
Kn_K5 L_L2 L_L3 0.1806708978032
Kn_K6 L_L2 L_L4 0.2278747419263
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.109087739259
Kn_K9 L_L2 L_L7 -0.096141007788
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0363873570767
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7709303802841
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9579649616202
Kn_K16 L_L3 L_L7 0.7286368108943
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.475752398192
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7126838733581
Kn_K22 L_L4 L_L7 0.9472719449642
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1934491287984
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0192784335119
Kn_K27 L_L5 L_L7 0.0144452360346
Kn_K28 L_L5 L_L8 0.7952188869115
Kn_K29 L_L5 L_L10 0.8297962504076
Kn_K30 L_L6 L_L7 0.7644499203823
Kn_K31 L_L6 L_L8 1.0
Kn_K32 L_L6 L_L9 -0.491439483702
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.185781210299
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.290062894088
Kn_K38 L_L8 L_L10 0.9185160394792
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_21 1 2 3 4 REF
C_C1 1 2 618.83186996638pf
C_C2 1 4 6.749647108746pf
C_C3 2 REF 4.5340380362294pf
C_C4 2 3 2.3371313904897pf
C_C5 3 REF 0.3240599237208pf
C_C6 4 REF 0.3736357889313pf
R_R1 1 REF 485.13404159804
R_R2 1 2 -3.365433996389
R_R3 1 3 669.0616548872
R_R4 1 4 -271.9734281532
R_R5 2 REF -491.1436083141
R_R6 2 3 -662.9775923574
R_R7 2 4 271.08421102537
L_L1 1 5 10.818177520309nh
R_RL1 5 REF -0.039368645456
L_L2 1 6 0.0599308279983nh
R_RL2 6 2 0.0270433208788
L_L3 1 7 5.2202842086369nh
R_RL3 7 3 0.0135163134131
L_L4 1 8 4.5909294937571nh
R_RL4 8 4 0.0168972974084
L_L5 2 9 10.735116066697nh
R_RL5 9 REF -9.245789783e-3
L_L6 2 10 5.2489462603317nh
R_RL6 10 3 0.002341360215
L_L7 2 11 4.6270620472523nh
R_RL7 11 4 0.0012196649208
L_L8 3 12 15.945702324348nh
R_RL8 12 REF -0.028708019763
L_L9 3 13 1.2488696665164nh
R_RL9 13 4 1.6962643454e-4
L_L10 4 14 15.308728533934nh
R_RL10 14 REF -0.019277359464
Kn_K1 L_L1 L_L2 0.0887933434672
Kn_K2 L_L1 L_L5 0.9972268172793
Kn_K3 L_L1 L_L8 0.8201424953164
Kn_K4 L_L1 L_L10 0.8367350497689
Kn_K5 L_L2 L_L3 0.027951728993
Kn_K6 L_L2 L_L4 0.0226850647642
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.078978270792
Kn_K9 L_L2 L_L7 -0.091211599945
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.013653251226
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.874511032336
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9942792531024
Kn_K16 L_L3 L_L7 0.8679087002797
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.36780010219
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.8696961347786
Kn_K22 L_L4 L_L7 0.9935061264274
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1293638483117
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8190396289267
Kn_K27 L_L5 L_L10 0.8353169585192
Kn_K28 L_L6 L_L7 0.8752821198606
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.365335636253
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1304116077474
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2112979379493
Kn_K36 L_L8 L_L10 0.9602412776845
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_22 1 2 3 4 REF
C_C1 1 2 83.236094731885pf
C_C2 1 4 0.9564603780978pf
C_C3 2 REF 0.9736256880647pf
C_C4 2 3 0.3665680700381pf
C_C5 3 REF 0.3342223880971pf
C_C6 4 REF 0.3367388542917pf
R_R1 1 2 -46.2548278837
L_L1 1 5 0.3231503787376nh
R_RL1 5 2 0.0686484640822
L_L2 1 6 31.100922399105nh
R_RL2 6 3 0.0493804771716
L_L3 1 7 30.390316964016nh
R_RL3 7 4 0.0524343345546
L_L4 2 8 31.359295239612nh
R_RL4 8 3 0.0025203338235
L_L5 2 9 30.657815174723nh
R_RL5 9 4 0.0010082142846
L_L6 3 10 1.3056072554105nh
R_RL6 10 4 2.3695366561e-5
Kn_K1 L_L1 L_L2 0.0102165784506
Kn_K2 L_L1 L_L4 -0.091338017887
Kn_K3 L_L1 L_L5 -0.093826656377
Kn_K4 L_L2 L_L3 0.978832950935
Kn_K5 L_L2 L_L4 0.9948348123566
Kn_K6 L_L2 L_L5 0.973504388834
Kn_K7 L_L2 L_L6 -0.158202534203
Kn_K8 L_L3 L_L4 0.9738908858117
Kn_K9 L_L3 L_L5 0.9947161787774
Kn_K10 L_L3 L_L6 0.0472296151187
Kn_K11 L_L4 L_L5 0.9790102578493
Kn_K12 L_L4 L_L6 -0.156836393593
Kn_K13 L_L5 L_L6 0.0477442976477
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_23 1 2 3 4 REF
C_C1 1 REF 0.2478171240232pf
C_C2 1 2 28.695928593249pf
C_C3 1 4 0.362642755825pf
C_C4 2 REF 0.6168668718686pf
C_C5 2 3 0.1622898135069pf
C_C6 3 REF 0.3336820812335pf
C_C7 4 REF 0.3330000926114pf
R_R1 1 2 -160.651358289
L_L1 1 5 0.7094295843565nh
R_RL1 5 2 0.1539259923932
L_L2 1 6 96.787770383921nh
R_RL2 6 3 0.3817951135561
L_L3 1 7 95.873905698829nh
R_RL3 7 4 0.3579958195241
L_L4 2 8 97.903713228727nh
R_RL4 8 3 0.52862803106
L_L5 2 9 96.998227153959nh
R_RL5 9 4 0.4863341177168
L_L6 3 10 1.3117736603025nh
R_RL6 10 4 3.073761568e-4
Kn_K1 L_L1 L_L2 -0.024528999297
Kn_K2 L_L1 L_L3 -0.025153595475
Kn_K3 L_L1 L_L4 -0.109513399725
Kn_K4 L_L1 L_L5 -0.110528386797
Kn_K5 L_L2 L_L3 0.9932024831779
Kn_K6 L_L2 L_L4 0.9963725020902
Kn_K7 L_L2 L_L5 0.9895272682406
Kn_K8 L_L2 L_L6 -0.098760869217
Kn_K9 L_L3 L_L4 0.9896670051028
Kn_K10 L_L3 L_L5 0.996338690789
Kn_K11 L_L3 L_L6 0.0177408358039
Kn_K12 L_L4 L_L5 0.9932802905798
Kn_K13 L_L4 L_L6 -0.097826730645
Kn_K14 L_L5 L_L6 0.0180091081085
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_24 1 2 3 4 REF
C_C1 1 REF 0.3532610627232pf
C_C2 1 2 13.436993723874pf
C_C3 1 3 0.0278831976675pf
C_C4 1 4 0.1896760929576pf
C_C5 2 REF 0.5248968121776pf
C_C6 2 3 0.0937653177821pf
C_C7 3 REF 0.3338820973711pf
C_C8 4 REF 0.3295618791488pf
R_R1 1 2 -656.7350828904
L_L1 1 5 1.0849805884833nh
R_RL1 5 2 0.0953668856246
L_L2 3 6 1.3120680087743nh
R_RL2 6 4 2.005610927e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_25 1 2 3 4 REF
C_C1 1 REF 0.3973355221903pf
C_C2 1 2 7.6550910578504pf
C_C3 1 3 0.0602360993412pf
C_C4 1 4 0.1222080339745pf
C_C5 2 REF 0.4964351785509pf
C_C6 2 3 0.063574803776pf
C_C7 2 4 0.0108826707449pf
C_C8 3 REF 0.333452075312pf
C_C9 4 REF 0.3263426096771pf
L_L1 1 5 1.6590310823238nh
R_RL1 5 2 4.3326461986e-4
L_L2 3 6 1.3098406288598nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_26 1 2 3 4 REF
C_C1 1 REF 0.4149139316398pf
C_C2 1 2 5.9233187755255pf
C_C3 1 3 0.0704844924707pf
C_C4 1 4 0.1025339660134pf
C_C5 2 REF 0.4911081390356pf
C_C6 2 3 0.0557763120344pf
C_C7 2 4 0.0331506753852pf
C_C8 3 REF 0.3323133490532pf
C_C9 4 REF 0.3248746867095pf
L_L1 1 5 1.8099131392582nh
R_RL1 5 2 1.124115158e-4
L_L2 3 6 1.3088650172543nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param46_26

